US09126993B2
2-(1-aza-bicyclo[2.2.2]oct-3-yl)-N-[2-(2-methoxy-phenyl)-ethyl]-acetamide
Using general procedure I, (1-aza-bicyclo[2.2.2]oct-3-yl)-acetic acid (200 mg, 1.20 mmol) and 2-(2-methoxy-phenyl)-ethylamine gave the title compound as a white solid (60 mg, 15%). 1H NMR (400 MHz, CD3OD) δ 7.17 (t, J=7.2 Hz, 1H), 7.08 (d, J=7.2 Hz, 1H), 6.89 (d, J=8.4 Hz, 1H), 6.84 (t, J=7.6 Hz, 1H), 3.89 (s, 3H), 3.35-3.45 (m, 3H), 3.21-3.31 (m, 3H), 2.76-2.83 (m, 3H), 2.29-2.45 (m, 3H), 1.82-2.01 (m, 3H), 1.72-1.81 (m, 2H) ppm. 13C NMR (400 MHz, CD3OD) δ 172.0, 158.0, 130.4, 127.8, 127.2, 120.2, 110.4, 54.6, 52.0, 46.4, 45.9, 39.1, 38.3, 30.7, 30.2, 23.8, 17.9 ppm. Purity: 92.4% HPLCMS (210 nm); retention time 1.59 min; (M+1) 303.

reactant | (1-aza-bicyclo[2.2.2]oct-3-yl)-acetic acid | 1.20 mmol, 200 mg | N12CC(C(CC1)CC2)CC(=O)O | C9H15NO2
reactant | 2-(2-methoxy-phenyl)-ethylamine | COC1=C(C=CC=C1)CCN | C9H13NO
product | 2-(1-aza-bicyclo[2.2.2]oct-3-yl)-N-[2-(2-methoxy-phenyl)-ethyl]-acetamide | 60 mg, 15% | N12CC(C(CC1)CC2)CC(=O)NCCC2=C(C=CC=C2)OC | C18H26N2O2
